US08937071B2
A solution of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (133 mg, 0.345 mmol), 2-(4-bromo-2-fluorophenyl)acetamide (80 mg, 0.345 mmol), Cs2CO3 (225 mg, 0.690 mmol) and PdCl2(dppf) (25.2 mg, 0.034 mmol) in 1,4-dioxane (9 mL) and H2O (3 mL) was stirred at 110° C. for 15 min. After LCMS analysis showed the starting material had disappeared, the mixture was dissolved in H2O (20 mL) and extracted by EA (50 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=3/1) to yield a yellow solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (90 mg, 0.219 mmol, 63.6% yield): 1H NMR (400 MHz, CD3OD) 7.93 (d, J=2.0 Hz, 1H), 7.43-7.34 (m, 6H), 6.91-6.89 (m, 2H), 5.35 (s, 2H), 4.16-4.11 (m, 2H), 3.78 (s, 3H), 1.41 (t, J=7.0 Hz, 3H); ES-LCMS m/z 291.1 (M−120).

reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.345 mmol, 133 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | 2-(4-bromo-2-fluorophenyl)acetamide | 0.345 mmol, 80 mg | BrC1=CC(=C(C=C1)CC(=O)N)F | C8H7BrFNO
reactant | Cs2CO3 | 0.690 mmol, 225 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
catalyst | PdCl2(dppf) | 0.034 mmol, 25.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.219 mmol, 90 mg, 63.6% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)N)F | C23H23FN2O4
